US07399867B2
4-Bromo-3-(4-methanesulfonyl-phenyl)-7-methoxy-1,2-dihydro-naphthalene
Add 2-(4-methanesulfonyl-phenyl)-6-methoxy-3,4-dihydro-2H-naphthalen-1-one (1.0 eq.), hyflo (20 wt %), and toluene (7.5 vols) to a three neck flask with a reflux condenser and nitrogen vent purge. While stirring at room temperature, add PBr3 (1.75 eq.) in one portion. Heat the reaction to reflux (˜110° C.) overnight allowing it to vent through a caustic scrubber. After refluxing for 15 hours, cool the yellow solution to 45° C. and slowly add THF (20 vols). Stir this mixture for 30 minutes at 45° and filter it, while warm, over a pad of Hyflo. Wash the pad with 45° C. THF (2×2 vols). Concentrate the filtrate at reduced pressure to remove all of the THF. Carefully add water (7.5 vols) to the remaining mixture keeping the temperature below 40° C. Cool the slurry to room temperature and stir it for 2 to 3 hours. Filter the slurry over a polypropylene pad and wash it with water (2×2 vols). Dry the resulting filter cake in a vacuum oven overnight at 50° C. to provide the title compound (74%).

reactant | 2-(4-methanesulfonyl-phenyl)-6-methoxy-3,4-dihydro-2H-naphthalen-1-one | 1.0 eq. | CS(=O)(=O)C1=CC=C(C=C1)C1C(C2=CC=C(C=C2CC1)OC)=O | C18H18O4S
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | PBr3 | 1.75 eq. | P(Br)(Br)Br | Br3P
solvent | THF | C1CCOC1 | C4H8O
product | 4-Bromo-3-(4-methanesulfonyl-phenyl)-7-methoxy-1,2-dihydro-naphthalene | 74% | BrC1=C(CCC2=CC(=CC=C12)OC)C1=CC=C(C=C1)S(=O)(=O)C | C18H17BrO3S
